* eeschema netlist version 1.1 (spice format) creation date: monday 15 april 2013 10:01:31 pm ist

* Plotting option vplot8_1
r2  1 0 50000
r1  5 1 100000
r4  4 0 3000
V_u4 7 4 0
v1  5 0 15v
V_u3 6 3 0
r3  5 6 5000
q1 3 1 7 npn

.dc  v1 0e-00 15e-00 5e-03

* Control Statements 
.control
run
plot v(1) v(3) v(7) 
plot i(V_u4)
plot i(V_u3)
.endc
.end
