* eeschema netlist version 1.1 (spice format) creation date: monday 15 april 2013 10:18:19 pm ist

* Plotting option vplot8_1
r1  7 11 100000
* Plotting option vplot8_1
r5  7 3 2000
V_u5 3 6 0
r6  2 0 2700
V_u6 5 2 0
r4  10 0 3000
V_u2 4 10 0
r3  7 9 5000
V_u1 9 1 0
v1  7 0 dc 15
r2  11 0 50000
q2 5 1 6 pnp
q1 1 11 4 npn

.dc  v1 0e-00 15e-00 5e-03

* Control Statements 
.control
run
plot v(11) 
plot v(1) v(4) v(6) v(5) 
plot i(V_u5)
plot i(V_u6)
plot i(V_u2)
plot i(V_u1)
.endc
.end
