* eeschema netlist version 1.1 (spice format) creation date: monday 29 april 2013 11:24:11 am ist

* Plotting option vplot8_1
* Plotting option vplot8_1
v2  0 8 15
V_u14 12 6 0
V_u11 5 18 0
r7  7 8 3k
V_u15 9 7 0
q9 6 23 9 npn
V_u12 23 1 0
r6  1 8 15.7k
V_u9 2 8 0
V_u6 11 8 0
V_u2 10 8 0
q6 4 25 2 npn
V_u8 3 4 0
r5  12 5 2.3k
V_u10 19 22 0
V_u7 13 21 0
V_u4 14 24 0
V_u5 15 16 0
V_u1 17 25 0
q8 18 22 23 npn
r4  12 19 3k
q7 22 21 3 npn
q5 12 24 3 npn
r1  0 17 28.6k
q1 25 25 10 npn
q3 16 25 11 npn
r3  12 13 20k
q4 21 0 15 npn
v1  12 0 15
r2  12 14 20k
q2 24 0 15 npn

.dc  v1 0e-00 15e-00 1e-00

* Control Statements 
.control
run
plot v(0) v(25) v(0) v(21) v(25) v(24) v(22) v(21) 
plot v(23) 
plot i(V_u14)
plot i(V_u11)
plot i(V_u15)
plot i(V_u12)
plot i(V_u9)
plot i(V_u6)
plot i(V_u2)
plot i(V_u8)
plot i(V_u10)
plot i(V_u7)
plot i(V_u4)
plot i(V_u5)
plot i(V_u1)
.endc
.end
