* eeschema netlist version 1.1 (spice format) creation date: thursday 16 may 2013 11:24:53 am ist
.include mos_p.lib
.include mos_n.lib

m1 4 3 1 1 mos_p
m2 4 3 0 0 mos_n
* Plotting option vplot8_1
v2  1 0 10
v1  3 0 dc 10
c1  4 0 .5p

.dc  v1 0e-00 10e-00 1e-00

* Control Statements 
.control
run
plot v(3) v(4) 
.endc
.end
