* eeschema netlist version 1.1 (spice format) creation date: thursday 20 december 2012 12:05:00 am ist

* Plotting option vplot8_1
r1  5 0 1000
v1  1 0 pulse(0 5 0 0 0 0.25e-6 0.5e-6)
v2  4 0 5
* 7400
a1 [1] [1_in]  u1adc
a2 [4] [4_in]  u1adc
a3 [1_in 4_in] 5_out u1
a4 [5_out] [5]  u1dac
.model u1 d_nand
.model u1adc adc_bridge(in_low=0.8 in_high=2.0)
.model u1dac dac_bridge(out_low=0.25 out_high=5.0 out_undef=1.8 t_rise=0.5e-9 t_fall=0.5e-9)

.tran  10e-09 1e-06 0e-00

* Control Statements 
.control
run
plot v(1) v(5) 
.endc
.end
