* eeschema netlist version 1.1 (spice format) creation date: monday 17 december 2012 03:24:15 pm ist
.include ua741.sub

v1  2 0 pulse(0 5 0 0 0 0.5e-4 1e-4)
* Plotting option vplot8_1
x1  4 0 3 ua741
r3  3 0 10000
r1  4 2 1000
r2  3 4 2000

.tran  1e-09 1e-06 0e-00

* Control Statements 
.control
run
plot v(2) v(3) 
.endc
.end
